US04262128
H. S-(4-Ethoxycarbonyl butyl)-L-cysteine ethyl ester
L-Cysteine ethyl ester hydrochloride (18.6 g; 0.10 mole) was added to a solution of sodium (4.6 g; 0.20 g.a) in ethanol (320 ml, absolute), stirred 15 minutes and then the solvent removed in vacuo. To a solution of the residual sodium salts in dry dimethylsulphoxide (200 ml) was added ethyl 5-bromovalerate (21.0 g; 0.10 mole) in a single portion with stirring. The reaction mixture was allowed to stand at room temperature overnight, warmed on a steam bath for 5 mins. and then poured onto water (300 ml) containing sodium dihydrogen phosphate (1 g). The oil was extracted with ether (3×), the combined extracts washed with water and dried over MgSO4. The solvent was removed in vacuo yielding the product as a pale yellow oil which was used in Example 70.

reactant | L-Cysteine ethyl ester hydrochloride | 0.10 mole, 18.6 g | Cl.C(C)OC([C@@H](N)CS)=O
reactant | sodium | [Na] | Na
reactant | ethyl 5-bromovalerate | 0.10 mole, 21.0 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | sodium dihydrogen phosphate | 1 g | P(=O)(O)(O)[O-].[Na+]
solvent | ethanol | 320 ml | C(C)O | C2H6O
solvent | dimethylsulphoxide | 200 ml | CS(=O)C | C2H6OS
product | S-(4-Ethoxycarbonyl butyl)-L-cysteine ethyl ester | C(C)OC([C@@H](N)CSCCCCC(=O)OCC)=O | C12H23NO4S
